US07652015B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea
Load a solution of 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea dihydrochloride (10 g, 19.2 mmol) in MeOH onto a 70 g Varian SCX column, rinsing with MeOH (ca. 300 mL). Elute the free base with 1:1 2 M ammonia in MeOH:dichloromethane (150 mL). Concentrate under reduced pressure to give a white solid (6.24 g). LCMS(ES+): m/z=448 [M+H].

reactant | 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea dihydrochloride | 19.2 mmol, 10 g | Cl.Cl.C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C(=NC(=CC1)N1CCNCC1)C
solvent | MeOH | CO | CH4O
solvent | MeOH | ca. 300 mL | CO | CH4O
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea | 6.24 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C(=NC(=CC1)N1CCNCC1)C | C25H33N7O
